US08314091B2
D: N-tert-Butyl-3-((4-(3-fluoro-4-(3-neopentylureido)benzoyl)piperazin-1-yl)methyl)benzamide
3-((4-(4-Amino-3-fluorobenzoyl)piperazin-1-yl)methyl)-N-tert-butylbenzamide (175 mg, 0.424 mmol) and 4-nitrophenylchloroformate (85 mg, 0424 mmol) were stirred in dichloromethane (2 mL) for 30 minutes. Neopentylamine (110 mg, 1.272 mmol) was added and the reaction stirred at room temperature for 2 hours. The reaction was concentrated under vacuum. The resulting residue was purified by acidic reverse phase HPLC to afford the title compound (26 mg).

reactant | 3-((4-(4-Amino-3-fluorobenzoyl)piperazin-1-yl)methyl)-N-tert-butylbenzamide | 0.424 mmol, 175 mg | NC1=C(C=C(C(=O)N2CCN(CC2)CC=2C=C(C(=O)NC(C)(C)C)C=CC2)C=C1)F | C23H29FN4O2
reactant | 4-nitrophenylchloroformate | 85 mg | C1=CC(=CC=C1[N+](=O)[O-])[Cl-]C(=O)[O-]
reactant | Neopentylamine | 1.272 mmol, 110 mg | C(C(C)(C)C)N | C5H13N
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | N-tert-Butyl-3-((4-(3-fluoro-4-(3-neopentylureido)benzoyl)piperazin-1-yl)methyl)benzamide | 26 mg | C(C)(C)(C)NC(C1=CC(=CC=C1)CN1CCN(CC1)C(C1=CC(=C(C=C1)NC(=O)NCC(C)(C)C)F)=O)=O | C29H40FN5O3
